US04134920
Preparation of 3β-acetoxy-14β-hydroxyandrostan-17-one
3β,14β-Dihydroxyandrostan-17-one (70 mg.) was dissolved in 5 ml. of pyridine and treated with 1 ml. of acetic anhydride at room temperature for 15 hours. After evaporation of solvents, the residue was crystallized from ether to give 70 mg. of the acetate, m.p. 182°-184°.

reactant | 3β,14β-Dihydroxyandrostan-17-one | 70 mg | O[C@@H]1CC2CC[C@H]3[C@]4(CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)O | C19H30O3
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetate | C(C)(=O)[O-]
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 3β-acetoxy-14β-hydroxyandrostan-17-one | C(C)(=O)O[C@@H]1CC2CC[C@H]3[C@]4(CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O)O | C21H32O4
